US07625932B2
Preparation of 3-chloro-2-[4-(4,4,5,5-tetramethyl(1,3,2-dioxaborolan-2-yl))phenyl]thiophene
A mixture of 2-(4-bromophenyl)-3-chlorothiophene (1.0 g, 3.66 mmol, preparation 11), bis(pinacolato)diboron (1.39 g, 5.48 mmol), KOAc (1.18 g, 12.08 mmol) and Pd(dppf)2Cl2 catalyst (0.3 g, 0.37 mmol) in dry DMF (20 mL) deoxygenated by purging with nitrogen is heated at 80° C. overnight. TLC(Hexane/EtOAC 4:1) shows complete consumption of starting material. Water (20 mL) is added and extracted with ether (3×20 mL). The combined organic are washed with water and then dried and concentrated to give a crude solid. Purification of the crude solid by flash chromatography (Silica gel-Hexane/EtOAc 99:1) provides pure 1.05 g (89%) title compound as a pale yellow solid.

reactant | 2-(4-bromophenyl)-3-chlorothiophene | 3.66 mmol, 1.0 g | BrC1=CC=C(C=C1)C=1SC=CC1Cl | C10H6BrClS
reactant | bis(pinacolato)diboron | 5.48 mmol, 1.39 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 12.08 mmol, 1.18 g | CC(=O)[O-].[K+]
catalyst | Pd(dppf)2Cl2 | 0.37 mmol, 0.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-chloro-2-[4-(4,4,5,5-tetramethyl(1,3,2-dioxaborolan-2-yl))phenyl]thiophene | 1.05 g, 89% | ClC1=C(SC=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H18BClO2S
